Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Naprosyn / Oak
 
Attending: ___.
 
Chief Complaint:
SOB and hypoxia
 
Major Surgical or Invasive Procedure:
VATS
 
History of Present Illness:
Please see MICU admission note for full details of initial 
presentation. Briefly, pt is a ___ y/o F hx NHL s/p CHOP who has 
since developed progressively worsening SOB and DOE (baseline is 
2LNC at home). She presented to OSH, received steroids and was 
transferred to ___ for rule out PE. CTA was negative; however, 
because pt initially was unable to wean from NRB, she was 
admitted to MICU. In MICU, she was started empirically of 
levaquin for dry cough, diuresed to lasix (20mg IV X2) with 
total LOS negative 1.9L and oxygenation improved to 94-95% 4LNC. 
 
.  
Upon arrival to medical floor, she reports feeling better. 
Further hx obtained. She tells me that her SOB and DOE really 
started after CHOP and also after a trip to ___ in ___ where 
she stayed in ___ and contracted "black mold." This was 
diagnosed with bronch and bx at ___ (and per Dr. 
___ this may have been aspergillus). She reports 
being treated with 60 mg prednisone for at least 2 months. 
Notably, whenever she tried to come off prednisone, her SOB got 
worse requiring hospitalization. This happened twice.  
.  
Currently, she feels somewhat better. ROS + cough green-yellow 
sputum increased in thickness X few weeks. + headache, no CP, 
palpitations, fever, chills, + nightsweats, + weight gain post 
chemo. She denies ___ swelling.  

 
Past Medical History:
# NHL dx in ___ s/p RCHOP. thought to be in remission. No XRT  
# Hypertension  
# Cerebral aneursym s/p clips  
# OSA: did not use cpap for a long time  
# Hypothyroid  
 
Social History:
___
Family History:
Father: asthma  
Mother with severe RA  
Sisters with COPD 
 
Physical Exam:
Admission
PE: 97.2 153/68 89 93%4LNC O2 Sats  
Gen: pleasant, obese, speaking comfortably  
HEENT: Clear OP, MMM  
NECK: Supple, No LAD, No JVD  
CV: RR, NL rate. NL S1, S2. No murmurs, rubs ___  
LUNGS: dry, velcro-like crackles ___ bilateral lung-fields  
ABD: Soft, NT, ND. NL BS. No HSM  
EXT: No edema. 2+ DP pulses ___  
SKIN: No lesions  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___.  
PSYCH: Listens and responds to questions appropriately, pleasant 
 
.  
PE: 97.2 120/68 95 18 96% 2.5LNC O2 Sats  
PE: 97.2 153/68 89 93%4LNC O2 Sats  
Gen: pleasant, obese, speaking comfortably  
HEENT: Clear OP, MMM  
NECK: Supple, No LAD, No JVD  
CV: RR, NL rate. NL S1, S2. No murmurs, rubs ___  
LUNGS: occaisonal wheezes, no labored breathing 
ABD: Soft, NT, ND. NL BS. No HSM  
EXT: No edema. 2+ DP pulses ___  
SKIN: No lesions  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___.  
PSYCH: Listens and responds to questions appropriately, pleasant 
 
.  
 
Pertinent Results:
CTA CHEST/ABD/PELVIS: IMPRESSION:  
1. No evidence of pulmonary embolism.  
2. No evidence of pneumonia.  
3. No evidence of acute intra-abdominal pathology.  
4. Portocaval lymphadenopathy  
5. Diffuse airtrapping throughout the lungs with emphysematous 
change.  
.  
CXR: PORTABLE UPRIGHT CHEST RADIOGRAPH: The heart size is 
normal. The mediastinal and hilar contours are unremarkable. The 
left costophrenic angle is excluded due to limited positioning. 
Visualized lungs are clear. There is no large effusion. A right 
internal jugular catheter terminates in the lower SVC.  
IMPRESSION: No evidence of pneumonia or CHF.
.
Echo:
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). The estimated 
cardiac index is normal (>=2.5L/min/m2). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The mitral valve leaflets 
are structurally normal. There is no mitral valve prolapse. Mild 
(1+) mitral regurgitation is seen. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Suboptimal image quality. Normal cavity sizes with 
low normal left ventricular systolic function. Mild mitral 
regurgitation. Mild pulmonary artery systolic function. 
.
High Resolution Chest CT:
Again seen are diffuse scattered areas of ground-glass opacity 
throughout the lungs bilaterally, in a somewhat mosaic pattern. 
Allowing for differences in technique, this appearance is little 
changed compared to ___. Findings are increased compared 
to ___. Areas of both increased density and increased 
lucency are seen suggesting mixed infiltrative and obstructive 
process. There are no focal consolidations. Airways are patent 
to the subsegmental level. Air trapping is seen on expiratory 
phase images. There is no pleural or pericardial effusion. 
Scattered mediastinal lymph nodes are seen; however, none appear 
to meet CT criteria for pathologic enlargement. There are no 
pathologically enlarged hilar or axillary lymph nodes. Limited 
views of the upper abdomen are grossly unremarkable. No 
suspicious lytic or blastic osseous lesions are identified. 
Right-sided port again identified.
IMPRESSION: 
Diffuse multifocal ground-glass opacities in a predominating 
mosaic pattern, worse when compared to ___, little 
changed from ___. Airtrapping seen on expiratory phase 
images. Findings are most concerning for hypersensitivity 
reaction. Other diagnostic considerations include possibly drug 
reaction or bronchiolitis obliterans.
.
Pulmonary Report SPIROMETRY, LUNG VOLUMES, DLCO Study Date of 
___  10:23 AM
SPIROMETRY 10:23 AM Pre drug Post drug 
       Actual Pred  %Pred   Actual  %Pred %chg 
FVC      2.16 3.23   67     2.35     73     +9 
FEV1     1.24 2.36   52     1.38     59     +12 
MMF      0.47 2.62   18     0.60     23     +27 
FEV1/FVC57 73   78   59     81              +3 
 
LUNG VOLUMES 10:23 AM Pre drug Post drug 
    Actual    Pred    %Pred 
TLC   5.34    5.26     102       
FRC   3.03    3.01     101       
RV   2.77    2.03      136       
VC   2.57    3.23       80       
IC   2.31    2.25      103       
ERV  0.26    0.98       27       
RV/TLC 52      39      134       
He Mix Time   4.25           
 
DLCO 10:23 AM   
      Actual    Pred   %Pred 
DSB    14.23    19.09   75       
VA(sb)  4.26    5.26    81       
HB      3.70           
DSB(HB)14.10    19.09   74       
DL/VA   3.31     3.63   91       
.
CBC
___ 01:15AM BLOOD WBC-7.3 RBC-4.30 Hgb-13.1 Hct-36.9 MCV-86 
MCH-30.4 MCHC-35.3* RDW-16.3* Plt ___
___ 05:05AM BLOOD WBC-6.2 RBC-4.19* Hgb-12.8 Hct-35.9* 
MCV-86 MCH-30.4 MCHC-35.6* RDW-16.2* Plt ___
___ 05:05AM BLOOD WBC-5.1 RBC-4.47 Hgb-13.8 Hct-38.4 MCV-86 
MCH-30.9 MCHC-36.0* RDW-15.9* Plt ___
___ 06:30AM BLOOD WBC-6.8 RBC-4.78 Hgb-14.2 Hct-40.6 MCV-85 
MCH-29.6 MCHC-34.8 RDW-15.9* Plt ___
___ 05:35AM BLOOD WBC-5.3 RBC-4.46 Hgb-13.6 Hct-38.1 MCV-86 
MCH-30.6 MCHC-35.7* RDW-15.6* Plt ___
___ 05:20AM BLOOD WBC-5.9 RBC-4.35 Hgb-13.0 Hct-37.1 MCV-85 
MCH-29.9 MCHC-35.1* RDW-15.5 Plt ___
___ 01:15AM BLOOD Neuts-80.2* Lymphs-17.0* Monos-1.4* 
Eos-0.9 Baso-0.5
___ 05:10AM BLOOD Neuts-58.3 ___ Monos-9.0 Eos-7.3* 
Baso-1.3
.
Chem7
___ 01:15AM BLOOD Glucose-125* UreaN-16 Creat-1.2* Na-135 
K-5.7* Cl-98 HCO3-27 AnGap-16
___ 04:40AM BLOOD Glucose-93 UreaN-30* Creat-1.5* Na-142 
K-4.3 Cl-101 HCO3-31 AnGap-14
___ 05:05AM BLOOD Glucose-98 UreaN-24* Creat-1.3* Na-142 
K-4.7 Cl-104 HCO3-31 AnGap-12
___ 05:10AM BLOOD Glucose-95 UreaN-27* Creat-1.2* Na-141 
K-4.5 Cl-104 HCO3-26 AnGap-16
___ 06:30AM BLOOD Glucose-96 UreaN-30* Creat-1.2* Na-143 
K-4.6 Cl-107 HCO3-21* AnGap-20
___ 05:35AM BLOOD Glucose-93 UreaN-28* Creat-1.2* Na-141 
K-4.7 Cl-106 HCO3-24 AnGap-16
___ 05:20AM BLOOD Glucose-104 UreaN-24* Creat-1.1 Na-141 
K-4.2 Cl-101 HCO3-26 AnGap-18
.
MISC
___ 01:15AM BLOOD ALT-22 AST-61* CK(CPK)-85 AlkPhos-53 
TotBili-0.5
___ 01:15AM BLOOD CK-MB-NotDone cTropnT-<0.01 proBNP-996*
___ 05:19PM BLOOD ANCA-NEGATIVE B
___ 05:19PM BLOOD ___ Titer-1:40
___ 05:10AM BLOOD IGE- <2.0
___ 04:40AM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN- 
negative 
___ 04:40AM BLOOD B-GLUCAN-negative   
___ 10:39AM BLOOD Type-ART pO2-64* pCO2-52* pH-7.35 
calTCO2-30 Base XS-1 Intubat-INTUBATED   
.
Pathology
Lung, right middle lobe, wedge resection (A-D):
a)  Numerous non-necrotizing granulomas, see note.
b)  Subpleural fibrosis with honeycomb change.
c)  Focal organizing pneumonitis
II.  Lung, right lower wedge resection (E-H):
a)  Numerous non-necrotizing granulomas, see note.
b)  Subpleural fibrosis with honeycomb change.
c)  Focal organizing pneumonitis.
Note:  Special stains for AFB, GMS and PSA are negative with 
satisfactory controls.  The differential diagnosis includes an 
infection process, sarcoidosis and less likely hypersensitivity 
pneumonitis.  Dr. ___ has reviewed the case (H & E slides) 
and concurs.

 
Brief Hospital Course:
 # Dyspnea: The patient was admitted for dyspnea and hypoxia. 
She was initially requiring an NRB and was admitted to the ICU 
overnight. She was thought to be volume overloaded and diuresed. 
Her hypoxia improved. She was found to be 84% on RA per her 
hematologist prior to admission. On transfer to the floor, she 
was 89% RA, 95% 2L. During her hospital stay, her shortness of 
breath improved subjectively although she still had significant 
dyspnea on exertion. She received albuterol and ipratropium nebs 
q6hours; no steroids or Advair. She was switched from Tiotropium 
and Advair to Combivent 4 times daily as her symptoms and 
oxygenation appeared to improve with frequent nebs. Beta-blocker 
was stopped to avoid bronchospasm. HCTZ was started instead for 
high BP. The pulmonary team followed her during her stay.  Echo 
showed no evidence of systolic or diastolic heart failure. PFT's 
showed obstrutive pattern with increased lung volumes and 
reduced diffusion capacity. Her work up included: ANCA- 
negative; ___ 1:40 (negative); Galactomanin and B-glucan 
negative; IgE <2.0; absolute peripheral eosinophilia of 300; 
Hypersensitvity panel negative. High Resolution Chest CT showed 
diffuse multifocal ground-glass opacities in a predominating 
mosaic pattern, worse when compared to ___. The patient 
was taken to VATS. VATS showed numerous non-necrotizing 
granulomas c/w sarcoidosis. Vit D levels and ACE-I were WNL. She 
was stared on Prednisone 40mg daily. She was started on 
bisphosphate and calcium w/ vit D. She was also started on 
bactrim for PCP ___.
.
# Purulent discharge from port-a-cath: On ___, the lumen of 
the patient's port-a-cath was found to be draining discharge. 
The IV nurse drew back from the lumen of the port and suctioned 
out yellow fluid. A wound culture was sent, found to have 3+ 
PMN's but no organisms grew. Blood cultures were sent were 
negative. The patient showed no sign of systemic infection w/o 
fevers, leukocytosis or chills. As the patient had not used the 
port-a-cath for treatment in 6+ months, the port-a-cath was 
removed at the same time as the VATS.
.
# Hypertension: Beta-blocker was stopped to reduce any 
contribution to obstructive lung disease. HCTZ was started 
instead. ACE-i was considered but the patient appeared to be in 
acute renal failure. She had no secondary indication for an 
ACE-i.
.
# ARF: Baseline creatinine from OSH records appears to be 
0.9-1.0. On admission, she had a creatinine 1.2 which rose to 
1.5 then came down to 1.1. The acute renal failure may have been 
due either to IV contrast or diuresis on admission. No further 
diuresis was performed and her ins/out kept even.
 
Medications on Admission:
MEDS on TRANSFER:  
Levofloxacin 750 mg IV QDAILY  
Albuterol-Ipratropium ___ PUFF IH Q6H:PRN  
Fexofenadine 60 mg PO BID  
Fluticasone-Salmeterol (250/50) 1 INH IH BID  
Tiotropium Bromide 1 CAP IH DAILY  
Levothyroxine Sodium 100 mcg PO DAILY  
Metoprolol Tartrate 25 mg PO BID  
Tricor *NF* 145 mg Oral daily  
Acetaminophen 325-650 mg PO Q6H:PRN  
Celebrex *NF* 200 mg Oral daily  
Duloxetine 60 mg PO DAILY  
Pantoprazole 40 mg PO Q24H  
Colace/Senna  
.  
.  
HOME MEDS:  
fexofenadine  
celebrex ___ po daily  
nexium 40mg po dialy  
fluticasone/salmeterol 500/50  
tiotropium  
cymbalta 60mg po daily  
combivent  
tricor 145  
metoprolol 25mg po bid  
synthroid ___ po daily  
.  

 
Discharge Medications:
1. Fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Celecoxib 200 mg Capsule Sig: One (1) Capsule PO daily ().  
3. Nexium 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
4. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Fenofibrate Micronized 145 mg Tablet Sig: One (1) Tablet PO 
daily ().  
6. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
8. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation four times a day.  
9. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).
Disp:*60 Capsule(s)* Refills:*6*
10. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO Q8H (every 8 
hours) as needed for anxiety.  
11. Bacitracin Zinc 500 unit/g Ointment Sig: as directed Appl 
Topical BID (2 times a day) for 4 days: apply a small amount to 
Vats incisions.  
12. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*3*
13. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
14. Dextromethorphan-Guaifenesin ___ mg/5 mL Liquid Sig: Five 
(5) ML PO Q6 () as needed for cough for 10 days.
Disp:*qs ML(s)* Refills:*0*
15. Morphine 15 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain for 2 weeks.
Disp:*30 Tablet(s)* Refills:*0*
16. CALCIUM 500+D 500 (1,250)-400 mg-unit Tablet, Chewable Sig: 
One (1) Tablet, Chewable PO twice a day.
Disp:*60 Tablet, Chewable(s)* Refills:*2*
17. Fosamax 5 mg Tablet Sig: One (1) Tablet PO once a day: Take 
with a full glass of water in the morning. Do not lie down 
within an hour of taking this medication.
Disp:*30 Tablet(s)* Refills:*3*

 
Discharge Disposition:
Home With Service
 
Facility:
___.
 
Discharge Diagnosis:
Sarcoid

 
Discharge Condition:
stable, continues to require ___ NC to maintain SaO2 >92%

 
Discharge Instructions:
You were admitted with shortness of breath and hypoxia. You 
received a VATS and were diagnosed with Sarcoid. You have been 
restarted on Prednisone. In addition, you should take bactrim to 
prevent PCP. It is also important that you take calcium and vit 
D to prevent decreased bone density on prednisone.
.
The following medication changes have been made:
1. Start taking Prednisone
2. Start taking Bactrim
3. Start taking Calcium with Vit D for bone strength.
5. Start taking Fosamax to prevent osteoporosis while being on 
prednisone.
6. Start taking Dextromethorphan with Guiafenisin (cough 
supressant) as needed for cough.
7. Stop taking Metoprolol
8. Start taking Hydrocholorothiazide for blood pressure instead 
of Metoprolol.
9. You can stop taking tiotoprium. Take Combivent 4 times a day 
instead.
10. You do not need to take Advair.
11. Take tylenol for mild pain. Take Morphine ___ for severe 
pain.
12. You can put a small amount of bacitracin on your VATS 
inscisions for a few days while they are healing.
.
If you have worsening shortness of breath, worsening chest pain, 
fevers or chills, you should return to the emergency room.
 
Followup Instructions:
___